US05672588
(R)-1-phenoxy-2-propylamine (4.3 g, 23 mmol) was reacted with 9-(2,3,5-tri- O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (11.2 g, 18 mmol) in dioxan (150 ml) in the presence of diisopropylethylamine (5.3 g, 41 mmol). The reaction mixture was stirred at room temperature for 18 h, heated at 50° C. for 4 h, and stirred at room temperature for 60 h before being filtered and evaporated. The product (after purification by flash chromatography) was debenzoylated with methanolic ammonia to provide the title 2-chloro- N-[(R)-1-phenoxy-2-propyl]adenosine (after column chromatography) as a foam (4.2 g, 64%), 1H NMR (DMSO-d6)δ 1.31 (3H, d, --CH3), 3.52-3.59 (1H, m, H-5'a), 3.63-3.72 (1H, m, H-5'b), 3.92-3.99 and 4.10-4.21 (4H, 2 m, H-3', H-4' and --CH2 --), 4.52 (1H, dd, H-2'), 4.65 (1H, m, --CH3C H--), 5.07 (1H, t, 5'-OH), 5.22, 5.49 (2H, 2d, 2' and 3'-OH), 5.84 (1H, d, H-1 '), 6.88-7.02 (3H, m, Ar--H), 7.24-7.33 (2H, dd, Ar--H), 8.32-8.45 (2H, s & m, H-8 and N--H).

reactant | (R)-1-phenoxy-2-propylamine | 23 mmol, 4.3 g | O(C1=CC=CC=C1)C[C@@H](C)N | C9H13NO
reactant | 9-(2,3,5-tri- O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 18 mmol, 11.2 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C31H22Cl2N4O7
reactant | diisopropylethylamine | 41 mmol, 5.3 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dioxan | 150 ml | O1CCOCC1 | C4H8O2
product | 2-chloro- N-[(R)-1-phenoxy-2-propyl]adenosine | 4.2 g, 64% | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N[C@@H](COC1=CC=CC=C1)C | C19H22ClN5O5
